2187-08-20 06:42:00 Physician Resident Progress Note
Chief Complaint: Hypotension, hypothermia and lactate of 4.2
   24 Hour Events:
 INDWELLING PORT (PORTACATH) - START [**2187-8-19**] 11:21 AM
 EKG - At [**2187-8-19**] 12:13 PM
 URINE CULTURE - At [**2187-8-19**] 12:13 PM
 ULTRASOUND - At [**2187-8-19**] 02:13 PM
   Try placing central line, but patient was delirius and with stable
   levophed requiremetns through portho-cath. Stopped procedure, because
   risk outweight benefits of a line. It will be re-assessed if patient
   becomes unstable.
   DNR/DNI discussed with husband and patient.
   Pt is delirius seeing "mice in the walls"; receive zyprexa.
   Lactate trending down to 3.1 and early in the morning 5.7
   Addreess diet tomorrow; in the mean time clears from NPO.
   Levophed for hypotension was started
   Vitamin K for high INR (1.9)
   RUQ USG: No biliary tract dilation
   Low UOP (~200cc/24hrs) so got 500cc fluids bolus
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2187-8-20**] 12:00 AM
   Vancomycin - [**2187-8-20**] 01:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2187-8-20**] 04:00 AM
   Infusions:
   Norepinephrine - 0.12 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-8-20**] 06:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.9
C (98.4
   HR: 125 (101 - 125) bpm
   BP: 94/69(75) {82/33(45) - 153/129(135)} mmHg
   RR: 24 (14 - 29) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 5 Inch
             Total In:
                                                                  4,609 mL
                                                                  1,379 mL
   PO:
             TF:
   IVF:
                                                                  1,609 mL
                                                                  1,379 mL
   Blood products:
   Total out:
                                                                    175 mL
                                                                    155 mL
   Urine:
                                                                    175 mL
                                                                    155 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,434 mL
                                                                  1,224 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///14/
   Physical Examination
   Genera: NAD, lying in bed with O2 NC, A&Ox3 (while on exam)
   HEENT: PEERLA, icteric conjuntivae, dry mucous membranes
   Neck: No lymph nodes palpable, thyroid not palpable, no bruits
   Heart: RRR, no m/r/g
   Lungs: Expiratory wheezes
   Abdomen: distended, non-tender, normal bowel movements, liver and
   spleen are very hard to palpate
   Extremities: edematous, palpable pulses, jaundice and with bruise in
   RLL.
   Neurologic: right now patiet A&Ox3, she was seeing mice in the walls
   earlier. Craneal nerves [**1-23**] normal (8 not evaluated), muscle tone [**4-16**],
   ROTs
   Labs / Radiology
   71 K/uL
   9.2 g/dL
   115 mg/dL
   0.4 mg/dL
   14 mEq/L
   4.4 mEq/L
   18 mg/dL
   101 mEq/L
   133 mEq/L
   28.5 %
   8.6 K/uL
        [image002.jpg]
                             [**2187-8-19**]  10:30 PM
                             [**2187-8-20**]  03:45 AM
   WBC
   10.5
   8.6
   Hct
   27.7
   28.5
   Plt
   83
   71
   Cr
   0.4
   Glucose
   97
   115
   Other labs: PT / PTT / INR:18.9/39.4/1.7, ALT / AST:65/268, Alk Phos /
   T Bili:634/13.7, Amylase / Lipase:26/40, Differential-Neuts:85.0 %,
   Band:3.0 %, Lymph:5.0 %, Mono:4.0 %, Eos:0.0 %, Lactic Acid:5.4 mmol/L,
   Albumin:2.2 g/dL, LDH:1444 IU/L, Ca++:7.1 mg/dL, Mg++:3.8 mg/dL,
   PO4:2.9 mg/dL
   Assessment and Plan
   This is a 43 year old female with ER+/Her2+ breast cancer metastastic
   to brain, lung, liver, and bone previously treated with trastuzumab,
   carboplatin/paclitaxel, radiation to cspine, lspine and hips,
   capecitabine, cyberknife of brain, and most recently treated in [**7-20**]
   with gemcitabine, bevacizumab, and trastuzumab, admitted to OMED on
   [**2187-7-16**] with abdominal pain, jaundice and elevated T Bili s/p ERCP and
   stent placement metastatic disease transfered to the [**Hospital Unit Name 44**] with
   hypothermia and hypotension sepsis.
   .
   Plan:
   # Hypotension
 BP stable on pressors through the single lumen
   portho-cath. Patient has not required more fluid boluses. For now,
   -  Central venous line if patient becomes unstable; discussed with
   husband and patient yesterday and both agreed.
   - IV fluids to UOP>30cc/hr,
   - Continue levophed for now
   - Follow-up blood, urine cultures, obtain sputum cx
   - Trend WBC count, fever curve.
   - ERCP team aware of patient's decompensation, stent well-placed, no
   further intervention appropriate as this is [**1-13**] metastatic disease
   - continue stress dose steroids given patient's recent decadron
   treatment 1 week ago
   #Code status: patient is DNR/DNI now. Goals of care must be address
   soon. This will put the line in how aggressive we can get with central
   lines, fluids and other studies. Patient with poor prognosis what would
   be good hospice candidate. Will need to discuss with patient, family,
   oncology and attendings.
   # Delirium: Difficult to assess and can be multifactorial. Patient with
   poor liver funciton on liver failure that can be encephalopath. Also
   with new antibiotics and steroids that may be contributing to the
   picture. This further increases the mortality risk on this patient.
   .
   # Cholestasis - Patient without worsening abdominal pain on transfer or
   acute rise in LFTs to support new/worsening obstruction. Has been on
   cipro for planned 5 day course post ERCP on [**2187-8-21**].
   - appreciate ERCP input
   - pain control as needed
   - continue broad coverage to vanco/cipro/zosyn for pseudomonas double
   coverage
   - monitor LFTs daily
   .
   # Metastatic Breast Cancer - Currently on gemcitabine, bevacizumab, and
   trastuzumab and found to have new t12 metestatic lesion during last
   hospitilization in [**7-20**]. She also has an L4 vertebral fx and options
   inlcude vertebroplasty versus radiation. Patient with no further chemo
   options.
   - plan per pt's oncologist Dr. [**Last Name (STitle) 5187**]
   .
   # Synthetic Liver FAilure - [**1-13**] metastatic disease
   - avoid Subclavian line in setting of INR >1.9
   .
   # Pancytopenia: likely due to chemotherapy
   - transfuse for Hct <21 given current decompensation, plt <10K/uL or
   spontaneous bleeding
   .
   # FEN: NPO for now, electrolyte sliding scale
   .
   # Access: Port
   .
   # PPx:  hold HEP SC [**1-13**] coagulopathy, Bowel REgimen, PPI
   .
   # Code:  FULL
   .
   # Dispo:  ICU
   .
   # Comm:  [**Name (NI) 651**]
   ICU [**Name (NI) **]
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2187-8-19**] 11:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2187-08-20 10:02:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   43 year old female metastatic breast CA who developed hypotension and
   hypothermia and transferred to the ICU.  Central line attempt failed
   because patient was delerious and is DNR/DNI. On levophed and receiving
   fluids and antibiotics.
   24 Hour Events:
 INDWELLING PORT (PORTACATH) - START [**2187-8-19**] 11:21 AM
 EKG - At [**2187-8-19**] 12:13 PM
 URINE CULTURE - At [**2187-8-19**] 12:13 PM
 ULTRASOUND - At [**2187-8-19**] 02:13 PM
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2187-8-20**] 12:00 AM
   Vancomycin - [**2187-8-20**] 01:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2187-8-20**] 04:00 AM
   Infusions:
   Norepinephrine - 0.12 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Med List Reviewed - See [**Month (only) **]
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: unable to obtain (mental status change)
   Flowsheet Data as of  [**2187-8-20**] 10:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.9
C (98.4
   HR: 105 (101 - 125) bpm
   BP: 106/57(89) {82/33(45) - 153/129(135)} mmHg
   RR: 25 (14 - 34) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 5 Inch
             Total In:
                                                                  4,609 mL
                                                                  1,784 mL
   PO:
             30 mL
   TF:
   IVF:
                                                                  1,609 mL
                                                                  1,754 mL
   Blood products:
   Total out:
                                                                    175 mL
                                                                    230 mL
   Urine:
                                                                    175 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,434 mL
                                                                  1,554 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.42/25/148/14/-5
   Physical Examination
   Gen: Arousable but somewhat lethargic
   HEENT: NC, AT
   Chest: CTA bilaterally
   Cardiovascular: (S1: Normal), (S2: Normal)
   Skin:  warm, dry
   Neurologic: lethargic but no focal neuro findings
   Labs / Radiology
   9.2 g/dL
   71 K/uL
   115 mg/dL
   0.5 mg/dL
   14 mEq/L
   4.4 mEq/L
   18 mg/dL
   101 mEq/L
   133 mEq/L
   28.5 %
   8.6 K/uL
        [image002.jpg]
                             [**2187-8-19**]  10:30 PM
                             [**2187-8-20**]  03:45 AM
                             [**2187-8-20**]  07:21 AM
   WBC
   10.5
   8.6
   Hct
   27.7
   28.5
   Plt
   83
   71
   Cr
   0.4
   0.5
   TCO2
   17
   Glucose
   97
   115
   Other labs: PT / PTT / INR:18.9/39.4/1.7, ALT / AST:65/268, Alk Phos /
   T Bili:634/13.7, Amylase / Lipase:26/40, Differential-Neuts:85.0 %,
   Band:3.0 %, Lymph:5.0 %, Mono:4.0 %, Eos:0.0 %, Lactic Acid:5.7 mmol/L,
   Albumin:2.2 g/dL, LDH:1444 IU/L, Ca++:7.1 mg/dL, Mg++:3.8 mg/dL,
   PO4:2.9 mg/dL
   Assessment and Plan
   A:
   1) Hypotension/Shock:
   - increasing lactate/decreasing urine output
   - Likely in septic shock from biliary source
   - on Vancomycin and Zosyn
   - on levophed
   2) Metastatic Breast Cancer: Will discuss with Dr. [**Last Name (STitle) **] and plan for
   family meeting today about overall goals of care
   3) Liver metastatis/failure
   ADDENDUM: Family meeting held and several discussions with husband who
   relates that he would like to change the goals of care toward comfort
   care.  Currently, awaiting several family members who will visit and
   then plan is to change to comfort care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2187-8-19**] 11:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition : ICU care
   Total time spent:  35 minutes (patient is critically ill)

2187-08-21 06:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -on levophed most of day yesterday, pt made CMO by family, levo stopped
   and IV morphine drip started.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2187-8-20**] 12:07 PM
   Vancomycin - [**2187-8-20**] 01:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2187-8-20**] 08:00 PM
   Infusions:
   Morphine Sulfate - 4 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2187-8-20**] 10:00 AM
   Morphine Sulfate - [**2187-8-20**] 11:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-8-21**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.1
C (97
   HR: 121 (96 - 121) bpm
   BP: 86/57(63) {77/45(49) - 128/87(148)} mmHg
   RR: 16 (15 - 41) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 5 Inch
             Total In:
                                                                  4,005 mL
                                                                     85 mL
   PO:
                                                                     60 mL
             TF:
   IVF:
                                                                  3,945 mL
                                                                     85 mL
   Blood products:
   Total out:
                                                                    462 mL
                                                                      0 mL
   Urine:
                                                                    462 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,543 mL
                                                                     85 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: 7.42/25/148/15/-5
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   81 K/uL
   9.2 g/dL
   117 mg/dL
   0.5 mg/dL
   15 mEq/L
   4.1 mEq/L
   19 mg/dL
   100 mEq/L
   132 mEq/L
   29.2 %
   12.1 K/uL
        [image002.jpg]
                             [**2187-8-19**]  10:30 PM
                             [**2187-8-20**]  03:45 AM
                             [**2187-8-20**]  07:21 AM
                             [**2187-8-20**]  04:41 PM
   WBC
   10.5
   8.6
   12.1
   Hct
   27.7
   28.5
   29.2
   Plt
   83
   71
   81
   Cr
   0.4
   0.5
   0.5
   TCO2
   17
   Glucose
   97
   115
   117
   Other labs: PT / PTT / INR:18.9/39.4/1.7, ALT / AST:65/268, Alk Phos /
   T Bili:634/13.7, Amylase / Lipase:26/40, Differential-Neuts:85.0 %,
   Band:3.0 %, Lymph:5.0 %, Mono:4.0 %, Eos:0.0 %, Lactic Acid:5.0 mmol/L,
   Albumin:2.2 g/dL, LDH:1444 IU/L, Ca++:6.8 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.1 mg/dL
   Assessment and Plan
   This is a 43 year old female with ER+/Her2+ breast cancer metastastic
   to brain, lung, liver, and bone previously treated with trastuzumab,
   carboplatin/paclitaxel, radiation to cspine, lspine and hips,
   capecitabine, cyberknife of brain, and most recently treated in [**7-20**]
   with gemcitabine, bevacizumab, and trastuzumab, admitted to OMED on
   [**2187-7-16**] with abdominal pain, jaundice and elevated T Bili s/p ERCP and
   stent placement metastatic disease transfered to the [**Hospital Unit Name 44**] with
   hypothermia and hypotension sepsis.
   .
   Plan:
   # Hypotension
 BP stable on pressors through the single lumen
   portho-cath. Patient has not required more fluid boluses. For now,
   -  Central venous line if patient becomes unstable; discussed with
   husband and patient yesterday and both agreed.
   - IV fluids to UOP>30cc/hr,
   - Continue levophed for now
   - Follow-up blood, urine cultures, obtain sputum cx
   - Trend WBC count, fever curve.
   - ERCP team aware of patient's decompensation, stent well-placed, no
   further intervention appropriate as this is [**1-13**] metastatic disease
   - continue stress dose steroids given patient's recent decadron
   treatment 1 week ago
   #Code status: patient is DNR/DNI now. Goals of care must be address
   soon. This will put the line in how aggressive we can get with central
   lines, fluids and other studies. Patient with poor prognosis what would
   be good hospice candidate. Will need to discuss with patient, family,
   oncology and attendings.
   # Delirium: Difficult to assess and can be multifactorial. Patient with
   poor liver funciton on liver failure that can be encephalopath. Also
   with new antibiotics and steroids that may be contributing to the
   picture. This further increases the mortality risk on this patient.
   .
   # Cholestasis - Patient without worsening abdominal pain on transfer or
   acute rise in LFTs to support new/worsening obstruction. Has been on
   cipro for planned 5 day course post ERCP on [**2187-8-21**].
   - appreciate ERCP input
   - pain control as needed
   - continue broad coverage to vanco/cipro/zosyn for pseudomonas double
   coverage
   - monitor LFTs daily
   .
   # Metastatic Breast Cancer - Currently on gemcitabine, bevacizumab, and
   trastuzumab and found to have new t12 metestatic lesion during last
   hospitilization in [**7-20**]. She also has an L4 vertebral fx and options
   inlcude vertebroplasty versus radiation. Patient with no further chemo
   options.
   - plan per pt's oncologist Dr. [**Last Name (STitle) 5187**]
   .
   # Synthetic Liver FAilure - [**1-13**] metastatic disease
   - avoid Subclavian line in setting of INR >1.9
   .
   # Pancytopenia: likely due to chemotherapy
   - transfuse for Hct <21 given current decompensation, plt <10K/uL or
   spontaneous bleeding
   .
   # FEN: NPO for now, electrolyte sliding scale
   .
   # Access: Port
   .
   # PPx:  hold HEP SC [**1-13**] coagulopathy, Bowel REgimen, PPI
   .
   # Code:  FULL
   .
   # Dispo:  ICU
   .
   # Comm:  [**Name (NI) 651**]
   ICU [**Name (NI) **]
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2187-8-19**] 11:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2187-08-21 11:31:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   Overnight, changed goals of care to comfort care.  Discontinued
   vasopressors and stopped other medications.  Patient unable to provide
   history this morning and is encephalopathic.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2187-8-20**] 12:07 PM
   Vancomycin - [**2187-8-20**] 01:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2187-8-20**] 08:00 PM
   Infusions:
   Morphine Sulfate - 5 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: Unable
   Flowsheet Data as of  [**2187-8-21**] 11:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 120 (96 - 121) bpm
   BP: 80/52(59) {75/45(49) - 128/87(93)} mmHg
   RR: 9 (9 - 33) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 5 Inch
             Total In:
                                                                  4,005 mL
                                                                    156 mL
   PO:
                                                                     60 mL
             TF:
   IVF:
                                                                  3,945 mL
                                                                    156 mL
   Blood products:
   Total out:
                                                                    462 mL
                                                                    180 mL
   Urine:
                                                                    462 mL
                                                                    180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,543 mL
                                                                    -24 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///15/
   Physical Examination
   Encephalopathic and not responsive
   Mildy tachyapneic
   Appears comfortable at this time
   Labs / Radiology
   9.2 g/dL
   81 K/uL
   117 mg/dL
   0.5 mg/dL
   15 mEq/L
   4.1 mEq/L
   19 mg/dL
   100 mEq/L
   132 mEq/L
   29.2 %
   12.1 K/uL
        [image002.jpg]
                             [**2187-8-19**]  10:30 PM
                             [**2187-8-20**]  03:45 AM
                             [**2187-8-20**]  07:21 AM
                             [**2187-8-20**]  04:41 PM
   WBC
   10.5
   8.6
   12.1
   Hct
   27.7
   28.5
   29.2
   Plt
   83
   71
   81
   Cr
   0.4
   0.5
   0.5
   TCO2
   17
   Glucose
   97
   115
   117
   Other labs: PT / PTT / INR:18.9/39.4/1.7, ALT / AST:65/268, Alk Phos /
   T Bili:634/13.7, Amylase / Lipase:26/40, Differential-Neuts:85.0 %,
   Band:3.0 %, Lymph:5.0 %, Mono:4.0 %, Eos:0.0 %, Lactic Acid:5.0 mmol/L,
   Albumin:2.2 g/dL, LDH:1444 IU/L, Ca++:6.8 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.1 mg/dL
   Assessment and Plan
   1: Septic shock/resp failure: patient goals of care changed to comfort
   care after extensive family discussion and family coming to the
   bedside.  She appears comfortable at this time and will give pain
   medications accordingly for comfort.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2187-8-19**] 11:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI/comfort care only
   Disposition : ICU for now
   Total time spent: 20